US06642226B2
Rac-cis-[4-(4-Benzooxazol-2-yl-piperazin-1-yl)-3-phenyl-piperidin-1-yl]-(3,5-bis-trifluoromethyl-phenyl)-methanone
The title compound, MS: m/e=603.0 (M+H+), was prepared in accordance with the general method of example 59 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone and 2-chlorobenzoxazole.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
product | Rac-cis-[4-(4-Benzooxazol-2-yl-piperazin-1-yl)-3-phenyl-piperidin-1-yl]-(3,5-bis-trifluoromethyl-phenyl)-methanone | O1C(=NC2=C1C=CC=C2)N2CCN(CC2)[C@@H]2[C@@H](CN(CC2)C(=O)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C31H28F6N4O2
